US09352049B2
To (S)-tert-butyl 21-(4-((2-amino-4-hydroxypteridin-6-yl)methylamino)benzamido)-2,2-dimethyl-4,18-dioxo-3,8,11,14-tetraoxa-5,17-diazadocosan-22-oate (425 mg, 0.551 mmol) aqueous 6 M hydrochloric acid (10 mL) was added. The reaction was stirred at ambient temperature for 16 hours. After this time, the reaction was not complete. The reaction was concentrated under reduced pressure and dissolved in N,N-dimethylformamide (5 mL). To the resulting mixture TFA (7 mL) was added and reaction mixture stirred at ambient temperature for 16 hours. After this time, the reaction was diluted with 6 M aqueous hydrochloric acid (50 mL) and filtered through diatomaceous earth. The filter cake was rinsed with methanol (40 mL), and the filtrate obtained was concentrated under reduced pressure. The residue obtained was purified by semi-preparative HPLC (100:0 to 3:7 H2O/CH3CN with 0.05% TFA over 25 min). Further purification by semi-preparative HPLC (100:0 to 3:7 H2O/CH3CN with 0.05% TFA over 25 min) was required to obtain pure (S)-1-amino-16-(4-((2-amino-4-hydroxypteridin-6-yl)methylamino)benzamido)-13-oxo-3,6,9-trioxa-12-azaheptadecan-17-oic acid (121 mg, 36%) as a yellow solid that was obtained via lyophilization: 1H NMR (300 MHz, DMSO-d6) δ 10.88 (vbs, 1H), 8.65 (s, 1H), 8.20 (d, J=6.6 Hz, 1H), 7.95-7.89 (m, 1H), 7.78 (bs, 2H), 7.65 (d, J=8.7 Hz, 2H), 7.00-6.90 (m, 2H), 6.64 (d, J=8.7 Hz, 2H), 4.49 (s, 2H), 4.31-4.28 (m, 1H), 3.78-3.45 (m, 12H), 3.43-3.35 (m, 2H), 3.28-3.20 (m, 2H), 3.02-2.98 (m, 2H), 2.23-2.17 (m, 2H), 2.12-2.00 (m, 1H), 1.99-1.87 (m, 1H); ESI MS m/z=614 [M−H]−.

reactant | (S)-tert-butyl 21-(4-((2-amino-4-hydroxypteridin-6-yl)methylamino)benzamido)-2,2-dimethyl-4,18-dioxo-3,8,11,14-tetraoxa-5,17-diazadocosan-22-oate | 0.551 mmol, 425 mg | NC1=NC2=NC=C(N=C2C(=N1)O)CNC1=CC=C(C(=O)N[C@@H](CCC(NCCOCCOCCOCCNC(OC(C)(C)C)=O)=O)C(=O)OC(C)(C)C)C=C1 | C36H53N9O10
solvent | hydrochloric acid | 6 M, 50 mL | Cl | ClH
solvent | hydrochloric acid | 6 M, 10 mL | Cl | ClH
product | (S)-1-amino-16-(4-((2-amino-4-hydroxypteridin-6-yl)methylamino)benzamido)-13-oxo-3,6,9-trioxa-12-azaheptadecan-17-oic acid | 121 mg, 36% | NCCOCCOCCOCCNC(CC[C@@H](C(=O)O)NC(C1=CC=C(C=C1)NCC=1N=C2C(=NC(=NC2=NC1)N)O)=O)=O | C27H37N9O8
